US07560569B2
In a similar manner to Example 133, 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (150 mg) and 2-amino-5-chlorobenzotrifluoride (173 μL) were used to obtain 4-tert-butoxycarbonylamino-N-(4-chloro-2-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide (79.7 mg).

reactant | 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 150 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C14H23NO4
reactant | 2-amino-5-chlorobenzotrifluoride | 173 μL | NC1=C(C=C(C=C1)Cl)C(F)(F)F | C7H5ClF3N
product | 4-tert-butoxycarbonylamino-N-(4-chloro-2-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide | 79.7 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)NC2=C(C=C(C=C2)Cl)C(F)(F)F | C21H26ClF3N2O3
